US08334308B2
Step 1: 2-(4-bromo-2-fluorophenyl)-3-{4-[2-(2,6-dichloro-4-methylphenoxy)ethoxy]-phenyl}propanenitrile
Prepared according to the procedure described in EXAMPLE 1, step 4 using commercially available (4-bromo-2-fluorophenyl)acetonitrile and 1,3-dichloro-2-{2-[4-(iodomethyl)phenoxy]ethoxy}-5-methylbenzene (II.1) as starting materials. Purification by column chromatography on silica gel, eluting with Hex/Tol 50%, afforded the desired compound as a colorless oil.

reactant | (4-bromo-2-fluorophenyl)acetonitrile | BrC1=CC(=C(C=C1)CC#N)F | C8H5BrFN
reactant | 1,3-dichloro-2-{2-[4-(iodomethyl)phenoxy]ethoxy}-5-methylbenzene | ClC1=C(C(=CC(=C1)C)Cl)OCCOC1=CC=C(C=C1)CI | C16H15Cl2IO2
product | 2-(4-bromo-2-fluorophenyl)-3-{4-[2-(2,6-dichloro-4-methylphenoxy)ethoxy]-phenyl}propanenitrile | BrC1=CC(=C(C=C1)C(C#N)CC1=CC=C(C=C1)OCCOC1=C(C=C(C=C1Cl)C)Cl)F | C24H19BrCl2FNO2
